US06525042B1
4-tert-Butoxycarbonyl-1-[(3-methoxymethyloxy-1-propyl)sulfonyl]piperazine
In dichloromethane (60 ml), 4-tert-butoxycarbonyl-1-[(3-hydroxy-1-propyl)sulfonyl]piperazine (3.00 g) was dissolved. To the resulting solution, diisopropylethylamine (2.72 ml) was added, followed by the addition of methoxymethyl chloride (1.11 ml) under ice cooling. After stirring at room temperature for 20 hours, the reaction mixture was diluted with dichloromethane, washed with water, a 5% aqueous citric acid solution and saturated saline and then dried over anhydrous sodium sulfate. The solvent was then distilled off under reduced pressure. The residue was purified by chromatography on a silica gel column (hexane:ethyl acetate=2:1), whereby the title compound (3.32 g, 97%) was obtained.

reactant | 4-tert-butoxycarbonyl-1-[(3-hydroxy-1-propyl)sulfonyl]piperazine | 3.00 g | C(C)(C)(C)OC(=O)N1CCN(CC1)S(=O)(=O)CCCO | C12H24N2O5S
reactant | diisopropylethylamine | 2.72 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methoxymethyl chloride | 1.11 ml | COCCl | C2H5ClO
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
product | 4-tert-Butoxycarbonyl-1-[(3-methoxymethyloxy-1-propyl)sulfonyl]piperazine | C(C)(C)(C)OC(=O)N1CCN(CC1)S(=O)(=O)CCCOCOC | C14H28N2O6S
